US07435822B2
3-[(4-Methoxy-phenyl)-thiophen-3-yl-methylene]-8-thiophen-2-ylmethyl-8-aza-bicyclo[3.2.1]octane
Following the protocol for Example 15, and substituting 3-[(4-methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane for 3-[(3-methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane and thiophene-2-carboxaldehyde for 2-methylbenzaldehyde the title compound was obtained; MS m/z (MH+) 408; 1H NMR 300 MHz (CDCl3) δ 6.81-7.29 (m, 10H), 3.79 (s, 2H), 3.78 (s, 3H), 3.24-3.33 (m, 2H), 2.22-2.54 (m, 4H), 1.91-2.04 (m, 2H), 1.58- 1.64 (m, 2H).

reactant | 3-[(3-methoxy-phenyl)-thiophen-3-yl-methylene]-8-aza-bicyclo[3.2.1]octane | COC=1C=C(C=CC1)C(=C1CC2CCC(C1)N2)C2=CSC=C2 | C19H21NOS
reactant | thiophene-2-carboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | 2-methylbenzaldehyde | CC1=C(C=O)C=CC=C1 | C8H8O
product | 3-[(4-Methoxy-phenyl)-thiophen-3-yl-methylene]-8-thiophen-2-ylmethyl-8-aza-bicyclo[3.2.1]octane | COC1=CC=C(C=C1)C(=C1CC2CCC(C1)N2CC=2SC=CC2)C2=CSC=C2 | C24H25NOS2
